US07544697B2
Potassium acetate (0.83 g, 8.432 mmol) and sodium iodide (16 g, 1.05 mmol) was added to a solution of di(tert-butyl) 1-(4-chlorobutyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate (2.18 g, 4.22 mmol) in DMF (15 mL). The reaction mixture was heated at 90° C. under a nitrogen atmosphere for 4.5 hours. The reaction was allowed to cool to ambient temperature and the volatiles were removed under reduced pressre. The resulting oil was partitioned between ethyl acetate and water. The organic layer was isolated and washed with water (2×25 mL) and brine (3×20 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield an oil that was dried under vacuum to provide 1.76 g of 4-{4-[bis(tert-butoxycarbonyl)amino]-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl}butyl acetate.

reactant | Potassium acetate | 8.432 mmol, 0.83 g | C(C)(=O)[O-].[K+]
reactant | sodium iodide | 1.05 mmol, 16 g | [I-].[Na+]
reactant | di(tert-butyl) 1-(4-chlorobutyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 4.22 mmol, 2.18 g | ClCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C27H37ClN4O4
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-{4-[bis(tert-butoxycarbonyl)amino]-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl}butyl acetate | 1.76 g | C(C)(=O)OCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C29H40N4O6
